US09108939B2
1,1,1,3,3,3-Hexafluoro-2-(4-((4-((2-fluoro-4-nitrophenyl)(methyl)amino)-piperidin-1-yl)methyl)phenyl)propan-2-ol (1.472 mmol, 750 mg) and palladium (10% on carbon, Degussa) (0.015 mmol, 31.3 mg) were hydrogenated in ethyl acetate (10 mL) at 5 bar for 1 hour at room temperature. The reaction mixture was filtered and concentrated under vacuum to give the intermediate 2-(4-((4-((4-amino-2-fluorophenyl)-(methyl)amino)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (300 mg).

reactant | 1,1,1,3,3,3-Hexafluoro-2-(4-((4-((2-fluoro-4-nitrophenyl)(methyl)amino)-piperidin-1-yl)methyl)phenyl)propan-2-ol | 1.472 mmol, 750 mg | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)CN1CCC(CC1)N(C)C1=C(C=C(C=C1)[N+](=O)[O-])F)(F)F | C22H22F7N3O3
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium | 0.015 mmol, 31.3 mg | [Pd] | Pd
product | 2-(4-((4-((4-amino-2-fluorophenyl)-(methyl)amino)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 300 mg | NC1=CC(=C(C=C1)N(C1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)C)F | C22H24F7N3O
